US08247619B2
Synthesis of 4-(2-(4-hydroxyphenyl)propan-2-yl)-2-methoxyphenol (aka, mono-methoxy BPA or guaiacol BPA)
Run 3—1% guaiacol BPA: Methylene chloride (23 L), water (8 L), BPA (4500 g, 19.8 mol), monomethoxyBPA (55 g of the above mixture), p-cumylphenol (135 g, 0.64 mol), triethylamine (40 ml) and sodium gluconate (10 g) was charged to a 75 L reactor equipped with mechanical agitation, condenser, and caustic scrubber vent system. Phosgene (2300 g, 23.2 mol) was added at a rate of 80 g/min to the reactor while 33 wt % caustic was added at a rate to maintain pH=10. The reactor contents were purged with nitrogen then transferred to another tank and centrifuged to remove the brine layer. The organic layer containing the polymer was washed on a centrifuge train with 1N HCl and then with deionized water until residual chloride levels were <5 ppm. The polymer was isolated by steam precipitation followed by drying under hot nitrogen. The final dried resin weighed 4.1 lbs, had Mw=27652 daltons and PDI=2.5 by GPC vs PC standard, <1 ppm TEA, 0.6 ppm chloride ion, <10 ppm residual free BPA, and <0.05 ppm Fe. The glass transition temperature was determined to be 153 C.

reactant | guaiacol BPA | C=1(C(O)=CC=CC1)OC.CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O
reactant | BPA | 19.8 mol, 4500 g | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
reactant | p-cumylphenol | 0.64 mol, 135 g | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H16O
reactant | sodium gluconate | 10 g | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Na+]
reactant | Phosgene | 23.2 mol, 2300 g | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | water | 8 L | O | H2O
solvent | Methylene chloride | 23 L | C(Cl)Cl | CH2Cl2
product | 4-(2-(4-hydroxyphenyl)propan-2-yl)-2-methoxyphenol | OC1=CC=C(C=C1)C(C)(C)C1=CC(=C(C=C1)O)OC | C16H18O3
